US04312994
5-Bromo-2-pentanone ethylene ketal having formula XLIV of Chart E
4.0 grams of 5-chloro-2-pentanone ethylene ketal is mixed with 9.0 grams of lithium bromide and 2.0 grams of diisopropylethylamine in 30 ml of tetrahydrofuran which has been distilled from lithium aluminum hydride. The mixture is refluxed under nitrogen for 48 hours, cooled and poured into a mixture of ether and water for extraction. The ether layer is washed twice with water, then with 1 N hydrochloric acid and then twice again with water. The ether layer is then dried over sodium sulfate and evaporated under reduced pressure to give title product.

reactant | 5-chloro-2-pentanone ethylene ketal | 4.0 grams | C1COC(C)(CCCCl)O1 | C7H13ClO2
reactant | lithium bromide | 9.0 grams | [Br-].[Li+]
reactant | diisopropylethylamine | 2.0 grams | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 5-Bromo-2-pentanone ethylene ketal | C1COC(C)(CCCBr)O1 | C7H13BrO2
